US04478837
A mixture of 13.2 g of benzyl bromide in 75 cc of dimethyl formamide is added dropwise within 2 hours to a suspension heated to 50° of 18.5 g of 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester and 12.8 g of potassium carbonate in 200 cc of dimethyl formamide. The mixture is subsequently stirred at the same temperature for 20 hours and is then completely concentrated in a vacuum. The residue is divided between 200 cc of chloroform and 50 cc of water, the organic phase is separated and concentrated to a dark oil in a vacuum. This is chromatographed on an aluminum oxide column, and elution is effected with a mixture of benzene/petroleum ether 2:1. The crude oily 3-benzylmercapto-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester, obtained after concentrating the eluate, crystallizes from 75 cc of ether after the addition of 25 cc of petroleum ether.

reactant | benzyl bromide | 13.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5,6,7,8-tetrahydro-3-mercapto-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | 18.5 g | C(C)OC(=O)N1CC2=C(N=NC(=C2)S)CC1 | C10H13N3O2S
reactant | potassium carbonate | 12.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 75 cc | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 200 cc | CN(C=O)C | C3H7NO
product | 3-benzylmercapto-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)SCC2=CC=CC=C2)CC1 | C17H19N3O2S
